US04002640
3.35 G. of 2-amino-4-(p-methylphenylthio)-1-nitrobenzene in 16 ml. concentrated hydrochloric acid and 16 ml. acetic acid is treated with 16 g. stannous chloride on the steam bath for 1 hour. The mixture is cooled, treated with an excess of potassium bicarbonate and extracted with chloroform. Evaporation of the chloroform leaves 1,2-diamino-4-(p-methylphenylthio) benzene.

reactant | 2-amino-4-(p-methylphenylthio)-1-nitrobenzene | NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,2-diamino-4-(p-methylphenylthio) benzene | NC1=C(C=C(C=C1)SC1=CC=C(C=C1)C)N | C13H14N2S
